US04880809
Using 6,7-dibutoxy-2-naphthoic acid (0.25 g), 1-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride (0.31 g), triethylamine (0.35 g), N,N-dimethylformamide (10 ml) and diethyl phosphorocyanidate (0.5 ml), an amidation as that described in Example 6 is carried out. The reaction mixture is purified by gel column chromatography (hexane:acetone=1:1) and converted to the hydrochloride in ethyl acetate to give 1-(6,7-dibutoxy-2-naphthoyl)-4-(3,4,5-trimethoxybenzyl)piperazine hydrochloride (0.4 g) as colorless prisms, m.p. 182°-185° C.

reactant | 6,7-dibutoxy-2-naphthoic acid | 0.25 g | C(CCC)OC=1C=C2C=CC(=CC2=CC1OCCCC)C(=O)O | C19H24O4
reactant | 1-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride | 0.31 g | Cl.Cl.COC=1C=C(CN2CCNCC2)C=C(C1OC)OC
reactant | triethylamine | 0.35 g | C(C)N(CC)CC | C6H15N
reactant | diethyl phosphorocyanidate | 0.5 ml | P(OCC)(OCC)(=O)C#N | C5H10NO3P
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(6,7-dibutoxy-2-naphthoyl)-4-(3,4,5-trimethoxybenzyl)piperazine hydrochloride | 0.4 g | Cl.C(CCC)OC=1C=C2C=CC(=CC2=CC1OCCCC)C(=O)N1CCN(CC1)CC1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C33H44N2O6.ClH/c1-6-8-16-40-28-21-25-10-11-26(20-27(25)22-29(28)41-17-9-7-2)33(36)35-14-12-34(13-15-35)23-24-18-30(37-3)32(39-5)31(19-24)38-4;/h10-11,18-22H,6-9,12-17,23H2,1-5H3;1H
